US20010011096A1
b) (8-Fluoro-1-methyl-1,4-dihydrochromeno[4,3-d]thiazol-2-ylideneamino)acetic acid hydrobromide
is obtained by adding 3.1 g of N-tert-butoxycarbonylmethyl-N′-methylthiourea to a solution of 3.7 g of 3-bromo-6-fluoro-4-chromanone in acetone and then stirring at room temperature for 24 hours and at 40° C. for a further 8 hours. After distillation, the amorphous oily residue is induced to crystallize in ethyl acetate at 0° C. Colorless crystals, melting point 184° C.

reactant | N-tert-butoxycarbonylmethyl-N′-methylthiourea | 3.1 g | C(C)(C)(C)OC(=O)CNC(=S)NC | C8H16N2O2S
reactant | 3-bromo-6-fluoro-4-chromanone | 3.7 g | BrC1COC2=CC=C(C=C2C1=O)F | C9H6BrFO2
solvent | acetone | CC(=O)C | C3H6O
product | (8-Fluoro-1-methyl-1,4-dihydrochromeno[4,3-d]thiazol-2-ylideneamino)acetic acid hydrobromide | Br.FC1=CC2=C(C=C1)OCC1=C2N(C(S1)=NCC(=O)O)C | InChI=1S/C13H11FN2O3S.BrH/c1-16-12-8-4-7(14)2-3-9(8)19-6-10(12)20-13(16)15-5-11(17)18;/h2-4H,5-6H2,1H3,(H,17,18);1H
